US06384220B2
A slurry of dichlorobis(triphenylphosphine)palladium(II) (119 mg, 0.17 mmol) in 1,2-dimethoxyethane (10 mL) was treated with 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester (1.00 g, 2.79 mmol). The reaction slurry was stirred at 25° C. for 10 min and then treated with a solution of pyridine-3-boronic acid (515 mg, 4.19 mmol) and a 2M aqueous sodium carbonate solution (2.8 mL, 5.58 mmol) in water (5 mL). The resulting reaction mixture was heated under reflux for 90 min. The reaction mixture was allowed to cool to 25° C. and then filtered to remove the catalyst. The filtrate was partitioned between water and methylene chloride, and the layers were separated. The aqueous layer was further extracted with methylene chloride (75 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-pyridin-3-yl-phenyl)-propionic acid methyl ester (800 mg, 92%) as a brown oil: EI-HRMS m/e calcd for C20H23NO2 (M+) 309.1729, found 309.1728.

reactant | 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester | 2.79 mmol, 1.00 g | COC(C(CC1CCCC1)C1=CC=C(C=C1)I)=O | C15H19IO2
reactant | pyridine-3-boronic acid | 4.19 mmol, 515 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 5.58 mmol, 2M, 2.8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.17 mmol, 119 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-cyclopentyl-2-(4-pyridin-3-yl-phenyl)-propionic acid methyl ester | 800 mg, 92% | COC(C(CC1CCCC1)C1=CC=C(C=C1)C=1C=NC=CC1)=O | C20H23NO2
